US07872021B2
4-[(2-aminoethyl)thio]-3-chloro-benzene acetic acid methyl ester hydrochloride
50 mg (0.144 mmol) of 3-chloro-4-[2-[[(1,1-dimethylethoxy)carbonyl]-amino]-ethylthio]benzeneacetic acid methyl ester are dissolved in 322 μl of trifluoroacetic acid. Agitation is performed for 2 hours at ambient temperature. The trifluoroacetic acid is eliminated by coevaporation with methylcyclohexane. The evaporation residue is dissolved in ethyl acetate and neutralisation takes place by addition of a solution of sodium carbonate at 10%. The organic phase is dried on magnesium sulfate, filtration takes place and concentration under reduced pressure. The expected product is obtained in the form of an orange oil with a quantitative yield.

reactant | 3-chloro-4-[2-[[(1,1-dimethylethoxy)carbonyl]-amino]-ethylthio]benzeneacetic acid methyl ester | 0.144 mmol, 50 mg | COC(CC1=CC(=C(C=C1)SCCNC(=O)OC(C)(C)C)Cl)=O | C16H22ClNO4S
reactant | methylcyclohexane | CC1CCCCC1 | C7H14
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | trifluoroacetic acid | 322 μl | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[(2-aminoethyl)thio]-3-chloro-benzene acetic acid methyl ester hydrochloride | quantitative yield | Cl.COC(CC1=CC(=C(C=C1)SCCN)Cl)=O | InChI=1S/C11H14ClNO2S.ClH/c1-15-11(14)7-8-2-3-10(9(12)6-8)16-5-4-13;/h2-3,6H,4-5,7,13H2,1H3;1H
